US05811218
Synthesis of N-(p-cyanophenyl)-N-methylglycine (Compound No. 3)
In a 500-ml pear-shaped flask, 4-fluorobenzonitrile (10.44 g, 86.26 mmoles), N-methylglycine (8.45 g, 94.89 mmoles) and potassium carbonate (14.28 g, 103.48 mmoles) were placed, followed by addition of 200 ml of dimethylsulfoxide as a solvent. A water cooling pipe was attached to the flask, and the reaction was carried out with heating on an oil bath heated at 100° C. for 9 hours with stirring using a magnetic stirrer. After cooling naturally, the reaction mixture was dissolved in 1 liter of water and subjected to acidolysis with 1/10N HCl, followed by filtration of a precipitate. After washing with water well, the precipitate was washed with hexane/benzene (4/1 in volume ratio). The yield of the product after dried was 14.21 g (74.79 mmoles, 86.7%). The melting point was 64.5° C.

reactant | 4-fluorobenzonitrile | 86.26 mmoles, 10.44 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | N-methylglycine | 94.89 mmoles, 8.45 g | CNCC(=O)O | C3H7NO2
reactant | potassium carbonate | 103.48 mmoles, 14.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 10N | Cl | ClH
solvent | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
solvent | water | 1 liter | O | H2O
product | N-(p-cyanophenyl)-N-methylglycine | C(#N)C1=CC=C(C=C1)N(CC(=O)O)C | C10H10N2O2
